US05155260
2,2-Dimethyl-5-(2,5-dimethylphenoxy)-pentanoic acid
To a solution of 13.3 (0.0183 mole) of crude 1,3-bis(2,2-dimethyl-5-iodopentanoyloxy)-propane (purity according to gas chromatography: 76%) in 100 ml of dimethyl sulfoxide 6.0 g (0.0366 mole) of 2,5-dimethylphenyl acetate [prepared e.g. according to R. J. Highet and P. F. Highet, J. Org. Chem. 30, 902 (1965)] and 12.3 g (0.11 mole) of potassium tert-butoxide are sequentially added. The reaction mixture is stirred for 10 minutes whereafter additional 12.3 g (0.11 mole) of potassium tert-butoxide and 1.5 ml of water are added. The mixture is stirred for 1 hour and then poured into 400 ml of water. The aqueous mixture is washed three times with 80 ml portions of hexane each followed by acidification with 20% hydrochloric acid to pH=1. The acidic mixture is extracted three times with 80 ml of hexane each, these latter extracts are combined, washed three times with 80 ml of water each, dried over sodium sulfate, decolourized with 0.8 g of silica gel and concentrated under reduced pressure. In this manner 7.61 g (yield: 84.1%) of the crude desired product is obtained as a nearly colourless solid, mp. 48°-54° C. This crude product is recrystallized from 15 ml of acetonitrile to afford 6.32 g (yield: 70.2%) of the desired product as colourless crystals, mp. 57°-58° C. This product complies with the identity and purity requirements of the US Pharmacopoeia No. XXII.

reactant | 1,3-bis(2,2-dimethyl-5-iodopentanoyloxy)-propane | CC(C(=O)OCCCOC(C(CCCI)(C)C)=O)(CCCI)C | C17H30I2O4
reactant | dimethyl sulfoxide | 0.0366 mole, 100 ml, 6.0 g | CS(=O)C | C2H6OS
reactant | 2,5-dimethylphenyl acetate | C(C)(=O)OC1=C(C=CC(=C1)C)C | C10H12O2
reactant | potassium tert-butoxide | 0.11 mole, 12.3 g | CC(C)([O-])C.[K+]
reactant | potassium tert-butoxide | 0.11 mole, 12.3 g | CC(C)([O-])C.[K+]
solvent | water | 400 ml | O | H2O
solvent | water | 1.5 ml | O | H2O
product | 2,2-Dimethyl-5-(2,5-dimethylphenoxy)-pentanoic acid | 6.32 g, yield: 70.2% | CC(C(=O)O)(CCCOC1=C(C=CC(=C1)C)C)C | C15H22O3
